US09353114B2
In a clean round bottom flask, 10 gm of 1-[(4-Methylquinazolin-2yl)methyl]-3-methyl-7-(2-butin-1yl)-8-(3(R)-4-methylphthalimidopiperidine-yl) xanthine and 100 ml of toluene were charged. 10 ml of ethanolamine was added to the reaction mass and heated to 90-95° C. to complete the reaction. The reaction mass was cooled to 80° C. and the layers were separated. The organic phase was distilled under vacuum to get crude linagliptin. Dry wt: 7.50 gm HPLC purity: 97.95% Impurity X: 0.69%

reactant | 1-[(4-Methylquinazolin-2yl)methyl]-3-methyl-7-(2-butin-1yl)-8-(3(R)-4-methylphthalimidopiperidine-yl) xanthine | 10 gm | CC1=NC(=NC2=CC=CC=C12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)N1C(C=2C(C1=O)=CC(=CC2)C)=O)C | C34H32N8O4
reactant | ethanolamine | 10 ml | C(O)CN | C2H7NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | linagliptin | CC#CCN1C2=C(N=C1N3CCC[C@H](C3)N)N(C(=O)N(C2=O)CC=4N=C(C=5C=CC=CC5N4)C)C | C25H28N8O2
